US06403595B1
To a solution of 4-(tert-butoxycarbonyl)-1-[4-hydroxy-1-(4-pyrimidinyl)piperidin-4-ylmethyl]piperazin-2-one (516 mg) in tetrahydrofuran (4 ml) was added a solution of 4N hydrochloric acid in ethyl acetate (4 ml), and the mixture was stirred at room temperature for 4 hours. The reaction solution was concentrated, and the residue was crystallized from tetrahydrofuran to give colorless crystals of 1-[4-hydroxy-1-(4-pyrimidinyl)piperidin-4-ylmethyl]piperazin-2-one hydrochloride (435 mg).

reactant | 4-(tert-butoxycarbonyl)-1-[4-hydroxy-1-(4-pyrimidinyl)piperidin-4-ylmethyl]piperazin-2-one | 516 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC1(CCN(CC1)C1=NC=NC=C1)O)=O | C19H29N5O4
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-hydroxy-1-(4-pyrimidinyl)piperidin-4-ylmethyl]piperazin-2-one hydrochloride | 435 mg | Cl.OC1(CCN(CC1)C1=NC=NC=C1)CN1C(CNCC1)=O | InChI=1S/C14H21N5O2.ClH/c20-13-9-15-5-8-19(13)10-14(21)2-6-18(7-3-14)12-1-4-16-11-17-12;/h1,4,11,15,21H,2-3,5-10H2;1H
